US07618964B2
a) 3-(6-Nitro-3H-imidazo[4,5-b]pyridine-2-yl)-benzoic acid
0.87 g 3-carboxybenzaldehyde and 0.866 g 2,3-diamino-5-nitropyridine in 50 ml nitrobenzene were heated to 160° C. for 30 hrs. The mixture was cooled to room temperature and 200 ml ethyl acetate and 100 ml ethyl ether were added. The precipitated product was collected by filtration and dried. Yield 1.135 g

reactant | 3-carboxybenzaldehyde | 0.87 g | C(=O)(O)C=1C=C(C=O)C=CC1 | C8H6O3
reactant | 2,3-diamino-5-nitropyridine | 0.866 g | NC1=NC=C(C=C1N)[N+](=O)[O-] | C5H6N4O2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | ethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | nitrobenzene | 50 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 3-(6-Nitro-3H-imidazo[4,5-b]pyridine-2-yl)-benzoic acid | [N+](=O)([O-])C=1C=C2C(=NC1)NC(=N2)C=2C=C(C(=O)O)C=CC2 | C13H8N4O4
